US06645973B1
Step A: N-benzyl-4-(3,5-difluoro-4-allyloxyphenyl)spiro[2H-1-benzopyran-2,4′-piperidine]
Allyl bromide (1.1 mole equiv.) was added dropwise to a mixture of N-benzyl-4-(3,5-difluoro-4-hydroxyphenyl)spiro[2H-1-benzopyran-2,4′-piperidine] (750 mg, 1.79 mmol; prepared according to the procedures outlined in Examples 1 and 42), cesium carbonate (1.1 mole equiv.) and anhydrous N,N-dimethylformamide (15 cm3). After stirring for 2 h at room temperature no starting material remained. The reaction mixture was diluted with ethyl acetate (50 cm3) and treated with water (100 cm3) the aqueous layer was separated and re-extracted with ethyl acetate (2×25 cm3). The combined organic extracts were washed with water (4×100 cm3) before being dried (Na2SO4) and the volatile materials were removed in vacuo to afford the desired material in high purity (60%).

reactant | Allyl bromide | 1.1 mole | C(C=C)Br | C3H5Br
reactant | N-benzyl-4-(3,5-difluoro-4-hydroxyphenyl)spiro[2H-1-benzopyran-2,4′-piperidine] | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C(=C2)C2=CC(=C(C(=C2)F)O)F)C=CC=C1 | C26H23F2NO2
reactant | cesium carbonate | 1.1 mole | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 15 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 100 cm3 | O | H2O
product | N-benzyl-4-(3,5-difluoro-4-allyloxyphenyl)spiro[2H-1-benzopyran-2,4′-piperidine] | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C(=C2)C2=CC(=C(C(=C2)F)OCC=C)F)C=CC=C1 | C29H27F2NO2
